US05110815
Trifluoroacetic acid (16.6 g) was added in one portion to a solution of 5,6,7,8-tetrahydro-5-hydroxy-2-(phenylmethoxy)-5-(phenylmethyl)quinoline (50 g), phenylmethoxyamine (44.8 g), and toluene (600 ml) at room temperature. The solution was stirred at room temperature for 19 hrs, and the reaction mixture was quenched with conc ammonium hydroxide solution. The layers were separated and the aqueous phase was extracted with ethyl acetate. The combined organic layers were washed with brine, dried over potassium carbonate, filtered, and the filtrate was concentrated. Purification by high performance liquid chromatography (silica gel, elution with ethyl acetate-hexanes) gave 40.0 g (61%) of 5,6,7,8-tetrahydro-N,2-bis(phenylmethoxy)-5-(phenylmethyl)-5-quinolinamine

reactant | Trifluoroacetic acid | 16.6 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | 5,6,7,8-tetrahydro-5-hydroxy-2-(phenylmethoxy)-5-(phenylmethyl)quinoline | 50 g | OC1(C=2C=CC(=NC2CCC1)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C23H23NO2
reactant | phenylmethoxyamine | 44.8 g | C1(=CC=CC=C1)CON | C7H9NO
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
product | 5,6,7,8-tetrahydro-N,2-bis(phenylmethoxy)-5-(phenylmethyl)-5-quinolinamine | 40.0 g, 61% | C1(=CC=CC=C1)CONC1(C=2C=CC(=NC2CCC1)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C30H30N2O2
